US05990102
a. 4-(Benzylthio)azetidin-2-one
Sodium (8.1 g, 0.35 mol) was dissolved in ethanol (250 ml) and benzyl mercaptan (45.2 g, 0.37 mol) added dropwise over 20 minutes keeping the temperature between 20° C.-25° C. whilst bubbling nitrogen through the mixture. After 15 minutes, the reaction was cooled to 5° C. and a solution of 4-acetoxyazetidin-2-one (45.0 g, 0.35 mol) in ethanol (50 ml) was added dropwise over 15 minutes whist maintaining the temperature at 5° C. The mixture was stirred at room temperature for 60 minutes and evaporated to dryness under reduced pressure. Water (500 ml) was added, the mixture extracted with dichloromethane (2×300 ml), the extracts dried (MgSO4) and evaporated under reduced pressure to an oil. The oil was cooled to -20° C. and titurated with ether (400 ml) to give a white solid which was isolated by filtration (50.2 g, 79%), mp 50-51.0° C.

reactant | Sodium | 0.35 mol, 8.1 g | [Na] | Na
reactant | benzyl mercaptan | 0.37 mol, 45.2 g | C(C1=CC=CC=C1)S | C7H8S
reactant | 4-acetoxyazetidin-2-one | 0.35 mol, 45.0 g | C(C)(=O)OC1CC(N1)=O | C5H7NO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(Benzylthio)azetidin-2-one | C(C1=CC=CC=C1)SC1CC(N1)=O | C10H11NOS
